US20010018525A1
4-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared as an orange foam (0.455 g, 76%) from 5-bromo-6-hydroxy-3′-trifluoromethyl-biphenyl-3-carboxylic acid (8-phenyl-octyl)-amide and 4-chlorosulfonyl-2-hydroxy-benzoic acid using a procedure similar to step 3 of Example 179. 1HNMR(DMSO-d6) 12.60(bs, 1H); 11.60 (bs, 1H); 8.68 (t, 1H); 8.21 (d, 1H); 7. 84 (d, 1H); 7.71-7.62 (m, 2H); 7.56-7.44 (m, 3H); 7.26-7.10 (m, 5H); 6.96 (dd, 1H); 6.82 (d, 1H); 3.21 (dd, 2H); 2.62 (t, 4H); 2.53 (t, 2H); 1.52 (m, 4H); 1.25 (m, 8H); IR (KBr) 3370, 2950, 2825, 1690, 1640, 1605, 1560, 1540, 1390, 1325, 1195, 1170, 1125 cm−1; mass spectrum [(−)ESI], m/z 660/662 (M−H)−; Anal. Calcd. for C35H33BrF3NO7S: C, 56.16; H, 4.44; N, 1.87, Found: C, 55.65; H, 4.27; N, 1.90.

reactant | 5-bromo-6-hydroxy-3′-trifluoromethyl-biphenyl-3-carboxylic acid (8-phenyl-octyl)-amide | C1(=CC=CC=C1)CCCCCCCCNC(=O)C=1C=C(C(=C(C1)Br)O)C1=CC(=CC=C1)C(F)(F)F | C28H29BrF3NO2
reactant | 4-chlorosulfonyl-2-hydroxy-benzoic acid | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
reactant | KBr | [K+].[Br-]
product | 4-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxysulfonyl]-2-hydroxy-benzoic acid | BrC=1C(=C(C=C(C1)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C35H33BrF3NO7S
